US05034547
Preparation of 1,8-bis(benzylsulfonylamino)anthraquinone.
A 100ml round bottom flask, equipped with a magnetic stirrer and cooling condenser, was charged with 1,8-dichloroanthraquinone (1.0g), benzylsulfonamide (4.0g), copper acetate monohydrate (1.0g), potassium carbonate (1.4g) and chlorobenzene (20ml). This mixture was refluxed for 2.0 hours and cooled, whereupon methanol (100ml) was added to induce precipitation. The solid was collected, extracted with dichloromethane, treated with charcoal, and recrystallized from a mixture of methanol and dichloromethane to afford a yellow product.

reactant | 1,8-dichloroanthraquinone | 1.0g | ClC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)Cl)=O | C14H6Cl2O2
reactant | benzylsulfonamide | 4.0g | C(C1=CC=CC=C1)S(=O)(=O)N | C7H9NO2S
reactant | potassium carbonate | 1.4g | C([O-])([O-])=O.[K+].[K+]
reactant | chlorobenzene | 20ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | copper acetate monohydrate | 1.0g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | methanol | 100ml | CO | CH4O
product | 1,8-bis(benzylsulfonylamino)anthraquinone | C(C1=CC=CC=C1)S(=O)(=O)NC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)NS(=O)(=O)CC1=CC=CC=C1)=O | C28H22N2O6S2
